US07163937B2
Preparation D6, Step 2: A mixture of 6-bromoquinazolin-4-ol (227 mg, 1.01 mmol), 2-methoxyphenylboronic acid (307 mg, 2.02 mmol), 2.0 M potassium phosphate (aq) (1.5 mL, 3.0 mmol), and DMF (3 mL) in a 5 mL microwave tube was degassed under vacuum/Ar. A catalytic amount of tetrakis(triphenylphosphine)palladium(0) was added to the tube, the mixture was degassed again, the tube was sealed, and the reaction was heated at 150° C. in the microwave for 30 min. The resulting black mixture was filtered, then concentrated in-vacuo. The residue was taken up in 9:1 ethyl acetate/heptane (50 mL), washed with water (3×20 mL), then brine, then dried over sodium sulfate and concentrated in-vacuo. The residue was purified over silica gel, eluting with 1:1 ethyl acetate/heptane, 100% ethyl acetate, then 9:1 ethyl acetate/methanol, to yield 250 mg of 6-(2-methoxyphenyl)quinazolin-4-ol as a white powder. MS (ES+)=253 (M+H+).

reactant | 6-bromoquinazolin-4-ol | 1.01 mmol, 227 mg | BrC=1C=C2C(=NC=NC2=CC1)O | C8H5BrN2O
reactant | 2-methoxyphenylboronic acid | 2.02 mmol, 307 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium phosphate | 3.0 mmol, 2.0 M, 1.5 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-(2-methoxyphenyl)quinazolin-4-ol | 250 mg | COC1=C(C=CC=C1)C=1C=C2C(=NC=NC2=CC1)O | C15H12N2O2
